US09303014B2
In another embodiment, provided herein is a method for preparing 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione, or an enantiomer or a mixture of enantiomers thereof; or a pharmaceutically acceptable salt, solvate, hydrate, or polymorph thereof comprising the steps of (a) reducing 3-(2-methyl-5-nitro-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione in a solvent in the presence of formic acid to form N-(3-(2,6-dioxopiperidin-3-yl)-2-methyl-4-oxo-3,4-dihydroquinazolin-5-yl)formamide; and (b) hydrolyzing N-(3-(2,6-dioxopiperidin-3-yl)-2-methyl-4-oxo-3,4-dihydroquinazolin-5-yl)formamide in a solvent to form 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione, or an enantiomer or a mixture of enantiomers thereof; or a pharmaceutically acceptable salt, solvate, hydrate, or polymorph thereof; wherein steps (a) and (b) are each as described herein elsewhere.

reactant | 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
reactant | 3-(2-methyl-5-nitro-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione | CC1=NC2=CC=CC(=C2C(N1C1C(NC(CC1)=O)=O)=O)[N+](=O)[O-] | C14H12N4O5
solvent | formic acid | C(=O)O | CH2O2
product | N-(3-(2,6-dioxopiperidin-3-yl)-2-methyl-4-oxo-3,4-dihydroquinazolin-5-yl)formamide | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)NC=O)C)=O | C15H14N4O4
